### PR TITLE
[Merged by Bors] - chore: review of `erw`

### PR DESCRIPTION
**Pull request by kim-em**
This is a pretty random sample.

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Differentials/Presheaf.lean [hunk 1]
```diff
@@ -81,7 +81,8 @@ def postcomp (f : M ⟶ N) : N.Derivation φ where
   d_map {X Y} g x := by simpa using naturality_apply f g (d.d x)
   d_app {X} a := by
     dsimp
-    erw [d_app, map_zero]
+    erw [d_app]
+    rw [map_zero]
```
Comment (kim-em) [inline Mathlib/Algebra/Category/ModuleCat/Differentials/Presheaf.lean:85]: These splits are intentional, so it's easier to use `erw?`, and generally to make clearer where the problem is.

File: Mathlib/Algebra/Homology/Homotopy.lean [hunk 2]
```diff
@@ -266,7 +266,7 @@ of complexes. -/
 theorem nullHomotopicMap'_comp (hom : ∀ i j, c.Rel j i → (C.X i ⟶ D.X j)) (g : D ⟶ E) :
     nullHomotopicMap' hom ≫ g = nullHomotopicMap' fun i j hij => hom i j hij ≫ g.f j := by
   ext n
-  erw [nullHomotopicMap_comp]
+  rw [nullHomotopicMap',nullHomotopicMap_comp]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Homology/Homotopy.lean:269]:
```suggestion
  rw [nullHomotopicMap', nullHomotopicMap_comp]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks

maintainer merge
